US04578250
A mixture of the above anisole (31 g) and glacial acetic acid (15 g) was heated to 70° C. for five hours, during which time a steady stream of BF3 was added. After cooling the reaction mixture, it was dissolved in 200 mL methylene chloride and washed with 200 mL water. The organic layer was dried (MgSO4) and the solvent was removed under vacuum to give 32.5 g of a red oil identified as a mixture of p-nonyl 2-methoxy-5-nonylacetophenone (major product) and 2-hydroxy-5-nonylacetophenone. To ensure complete conversion to the methoxyketone, the product mixture was re-alkylated by the phase transfer reaction described above. Work-up of the reaction mixture yielded 31.5 g (88%) of 2-methoxy-5-nonylacetophenone.

reactant | p-nonyl 2-methoxy-5-nonylacetophenone | C(CCCCCCCC)C1=CC=C(C=C1)C(CC(CCC(C)OC)CCCC)=O | C27H46O2
reactant | 2-hydroxy-5-nonylacetophenone | OC(C)CCC(CCCC)CC(=O)C1=CC=CC=C1 | C17H26O2
reactant | methoxyketone | COC(=O)OC | C3H6O3
product | 2-methoxy-5-nonylacetophenone | 31.5 g, 88% | COC(C)CCC(CCCC)CC(=O)C1=CC=CC=C1 | C18H28O2
